US07125901B2
To a solution of N-{4-[4-(3-bromopropyl)phenyl]-5-[4-(methylsulfonyl)phenyl]-1,3-thiazol-2-yl}acetamide (82 mg) in N,N-dimethylformamide (0.82 ml) was added phthalimide potassium salt (30.8 mg), and the mixture was stirred for 2 hrs. at 50° C. The reaction mixture was cooled to 20° C., then water was added to the reaction mixture, and the mixture was extracted with ethyl acetate, washed with brine, dried over magnesium sulfate and evaporated to give a crude material (92.0 mg). The crude material was purified by preparative thin-layer chromatography over silica gel to give N-{4-{4-[3-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)propyl]phenyl}-5-[4-(methylsulfonyl)phenyl]-1,3-thiazol-2-yl}acetamide.

reactant | N-{4-[4-(3-bromopropyl)phenyl]-5-[4-(methylsulfonyl)phenyl]-1,3-thiazol-2-yl}acetamide | 82 mg | BrCCCC1=CC=C(C=C1)C=1N=C(SC1C1=CC=C(C=C1)S(=O)(=O)C)NC(C)=O | C21H21BrN2O3S2
reactant | phthalimide potassium salt | 30.8 mg | [K].C1(C=2C(C(N1)=O)=CC=CC2)=O
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 0.82 ml | CN(C=O)C | C3H7NO
product | N-{4-{4-[3-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)propyl]phenyl}-5-[4-(methylsulfonyl)phenyl]-1,3-thiazol-2-yl}acetamide | O=C1N(C(C2=CC=CC=C12)=O)CCCC1=CC=C(C=C1)C=1N=C(SC1C1=CC=C(C=C1)S(=O)(=O)C)NC(C)=O | C29H25N3O5S2
